* sense_amp nominal characterization
.include /workspace/support/models.spice
.include dut.spice
.temp 27
Vdd vdd 0 1
Xdut BL BR Dout SCLK vdd gnd sense_amp
Vbl bl 0 PWL(0 .8 1n .8 1.01n 1)
Vbr br 0 PWL(0 1 1n 1 1.01n .8)
Vs sclk 0 PULSE(0 1 500p 10p 10p 480p 1n)
Cl dout 0 .5f
.tran 0.5p 2n
.meas tran low find v(dout) at=610p
.meas tran high find v(dout) at=1610p
.meas tran supply avg par('-v(vdd)*i(Vdd)') from=0 to=2n

.control
run
write waveform.raw v(bl) v(br) v(dout) v(sclk) v(vdd) i(Vdd)
quit
.endc
.end
