* AOI21_X1: exhaustive Gray sequence and reversed sequence
.include /workspace/support/models.spice
.include dut.spice
.temp 27
Vdd vdd 0 1
Vss vss 0 0
Xdut A B1 B2 ZN VDD VSS AOI21_X1
Cl ZN 0 5f
VA A 0 PWL(0 0 0.500n 0 0.510n 0 1.000n 0 1.010n 0 1.500n 0 1.510n 0 2.000n 0 2.010n 1 2.500n 1 2.510n 1 3.000n 1 3.010n 1 3.500n 1 3.510n 1 4.000n 1 4.010n 0 4.500n 0 4.510n 1 5.000n 1 5.010n 1 5.500n 1 5.510n 1 6.000n 1 6.010n 1 6.500n 1 6.510n 0 7.000n 0 7.010n 0 7.500n 0 7.510n 0 8.000n 0 8.010n 0)
VB1 B1 0 PWL(0 0 0.500n 0 0.510n 0 1.000n 0 1.010n 1 1.500n 1 1.510n 1 2.000n 1 2.010n 1 2.500n 1 2.510n 1 3.000n 1 3.010n 0 3.500n 0 3.510n 0 4.000n 0 4.010n 0 4.500n 0 4.510n 0 5.000n 0 5.010n 0 5.500n 0 5.510n 1 6.000n 1 6.010n 1 6.500n 1 6.510n 1 7.000n 1 7.010n 1 7.500n 1 7.510n 0 8.000n 0 8.010n 0)
VB2 B2 0 PWL(0 0 0.500n 0 0.510n 1 1.000n 1 1.010n 1 1.500n 1 1.510n 0 2.000n 0 2.010n 0 2.500n 0 2.510n 1 3.000n 1 3.010n 1 3.500n 1 3.510n 0 4.000n 0 4.010n 0 4.500n 0 4.510n 0 5.000n 0 5.010n 1 5.500n 1 5.510n 1 6.000n 1 6.010n 0 6.500n 0 6.510n 0 7.000n 0 7.010n 1 7.500n 1 7.510n 1 8.000n 1 8.010n 0)
.tran 0.5p 8.500n
.meas tran state_0 find v(ZN) at=0.110n
.meas tran state_1 find v(ZN) at=0.610n
.meas tran state_2 find v(ZN) at=1.110n
.meas tran state_3 find v(ZN) at=1.610n
.meas tran state_4 find v(ZN) at=2.110n
.meas tran state_5 find v(ZN) at=2.610n
.meas tran state_6 find v(ZN) at=3.110n
.meas tran state_7 find v(ZN) at=3.610n
.meas tran state_8 find v(ZN) at=4.110n
.meas tran state_9 find v(ZN) at=4.610n
.meas tran state_10 find v(ZN) at=5.110n
.meas tran state_11 find v(ZN) at=5.610n
.meas tran state_12 find v(ZN) at=6.110n
.meas tran state_13 find v(ZN) at=6.610n
.meas tran state_14 find v(ZN) at=7.110n
.meas tran state_15 find v(ZN) at=7.610n
.meas tran state_16 find v(ZN) at=8.110n
.meas tran supply avg par('-v(vdd)*i(Vdd)') from=0 to=8.400n
.control
run
write waveform.raw v(A) v(B1) v(B2) v(ZN) v(VDD) i(Vdd)
quit
.endc
.end
