* Bench nominal AC/DC and unity-buffer transient measurements.
* SPDX-License-Identifier: MIT
.include support/models.spice
.include dut.spice
.include parameters.spice
.temp 27
VDD vdd 0 3.3
VIN vinp 0 DC 0.8 AC 1 PWL(0 0.8 1u 0.8 1.01u 0.81 3u 0.81 3.01u 0.8 5u 0.8)
LFB vout vinn 1T
CIN vinn 0 1
CL vout 0 {load_f}
XDUT vdd vout vinp vinn 0 amp_033_ti_ldo_ref_selfbias
.control
set noaskquit
set numdgt=12
op
let output_v=v(vout)
let power_w=-v(vdd)*i(vdd)
print output_v power_w
write op.raw
ac dec 100 1 1G
let transfer=v(vout)
let response_db=db(transfer)
meas ac gain_db find response_db at=10
meas ac unity_hz when response_db=0 fall=1
let phase_deg=180*cph(transfer)/pi
meas ac phase_unity find phase_deg when response_db=0 fall=1
let phase_margin=180+phase_unity
print phase_margin
write ac.raw
alter LFB 1p
alter CIN 1a
tran 1n 5u
let tracking_error=abs(v(vout)-v(vinp))
meas tran tracking_error_v avg tracking_error from=1u to=5u
meas tran step_low_v avg v(vout) from=4u to=5u
meas tran step_high_v avg v(vout) from=2u to=3u
let step_response_v=step_high_v-step_low_v
print step_response_v
write transient.raw
quit
.endc
.end
